US05264438
To a mixture of 7-amino-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione (0.39 g), acetic acid (5 ml) and water (10 ml) was added a solution of potassium cyanate 0.16 g) in water (2 ml) and the resulting mixture was stirred for additional 3 hours. The reaction mixture was poured into water and precipitated solid was filtered, washed in turn with water and ethanol and dried to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-ureido-1,2,3,4-tetrahydroquinazoline-2,4-dione (0.12 g).

reactant | 7-amino-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.39 g | NC1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(=CC1)C1=CC=CC=C1)=O | C23H26N4O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | 0.16 g | [O-]C#N.[K+]
solvent | water | 2 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-7-ureido-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.12 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC2=CC(=CC=C2C1=O)NC(=O)N)=O | C24H27N5O3
